US07202472B2
2.4 Nitrilotriacetic Acid (NTA) Surface
10 mg of carboxy-modified cores were washed twice with 1 ml of acetonitrile (MeCN) and then taken up in 1 ml of MeCN. To this were added 10 μmol of dicyclohexylcarbodiimide and 10 μmol of N-hydroxysuccinimide. This was followed by shaking at room temperature for two hours. Washing was then carried out once with 1 ml of cyclohexane and once with 1 ml of MeCN. The particles were then taken up in 1 ml of MeCN. 4 μmol of N,N-biscarboxymethyl-L-lysine were added thereto and shaken at room temperature for three hours. This was followed by washing once with 1 ml of acetonitrile and twice with 1 ml of 10 mM phosphate buffer (pH 7.0).

reactant | dicyclohexylcarbodiimide | 10 μmol | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | N-hydroxysuccinimide | 10 μmol | ON1C(CCC1=O)=O | C4H5NO3
reactant | N,N-biscarboxymethyl-L-lysine | 4 μmol | C(=O)(O)CN([C@@H](CCCCN)C(=O)O)CC(=O)O | C10H18N2O6
product | Nitrilotriacetic Acid | N(CC(=O)O)(CC(=O)O)CC(=O)O | C6H9NO6
